US09315458B2
I) methyl 4-ethyl-2-formyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate
A mixture of methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-vinylbenzoate (0.21 g), osmium oxide (fixed catalyst I) (0.08 g) and sodium periodate (0.64 g) in acetone (4.00 mL)-acetonitrile (4.00 mL)-water (4.00 mL) was stirred overnight at room temperature. The insoluble substance was removed by filtration, the filtrate was diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.21 g) as a crude product. This compound was used in the next step without an additional purification.

reactant | methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-vinylbenzoate | 0.21 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)C=C | C23H24N2O2
reactant | sodium periodate | 0.64 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | acetonitrile | 4.00 mL | C(C)#N | C2H3N
reactant | water | 4.00 mL | O | H2O
catalyst | osmium oxide | [Os]=O
solvent | acetone | 4.00 mL | CC(=O)C | C3H6O
catalyst | osmium oxide | 0.08 g | [Os]=O
product | methyl 4-ethyl-2-formyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate | 0.21 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)C=O | C22H22N2O3
